US08071584B2
1-(1,1-Dimethylethyl) 7-ethyl 5-bromo-3-(2-phenyltetrahydro-2H-thiopyran-4-yl)-1H-indole-1,7-dicarboxylate
Ethyl 5-bromo-3-(2-phenylthian-4-yl)-1H-indole-7-carboxylate (2.210 g, 4.97 mmol) was placed in a flask and dissolved with acetonitrile (20 mL). di-tert-butyl-dicarbonate (3.46 mL, 14.92 mmol) was added and the mixture stirred at 23° C. Dimethylaminopyridine (0.608 g, 4.97 mmol) was slowly added in small portions over 2 h. The mixture was left stirring at 23° C. 16 h. The reaction was quenched with a saturated aqueous solution of sodium bicarbonate (100 mL), the resulting mixture was evaporated under vacuum to remove most of the acetonitrile and then extracted with ethyl acetate. The organic layer was dried over magnesium sulfate and solvent was removed under vacuum to afford 2.6 g of a gummy brown oil. Again, a possible mixture of major and minor isomers in a 5:2 ratio appears to be present based on LCMS.

reactant | Ethyl 5-bromo-3-(2-phenylthian-4-yl)-1H-indole-7-carboxylate | 4.97 mmol, 2.210 g | BrC=1C=C2C(=CNC2=C(C1)C(=O)OCC)C1CC(SCC1)C1=CC=CC=C1 | C22H22BrNO2S
reactant | di-tert-butyl-dicarbonate | 14.92 mmol, 3.46 mL | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | Dimethylaminopyridine | 4.97 mmol, 0.608 g | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | 1-(1,1-Dimethylethyl) 7-ethyl 5-bromo-3-(2-phenyltetrahydro-2H-thiopyran-4-yl)-1H-indole-1,7-dicarboxylate | 2.6 g | BrC=1C=C2C(=CN(C2=C(C1)C(=O)OCC)C(=O)OC(C)(C)C)C1CC(SCC1)C1=CC=CC=C1 | C27H30BrNO4S
